US04340601
A mixture of 1 g of 2-allyl-8-chloro-6,7-dihydroxy-4-(p-hydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide, 1.3 ml of acetyl bromide and 200 ml of trifluoroacetic acid is stirred at 10° for 2 hours. After evaporation to dryness, the residue is purified, if necessary, by recrystallization to give 2-allyl-8-chloro-6,7-diacetoxy-4-(p-acetoxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide. Similarly tri-isobutyryloxy, -propionyloxy, -isovaleryloxy, -n-butyryloxy and -n-heptanoyloxy ester derivatives are prepared.

reactant | 2-allyl-8-chloro-6,7-dihydroxy-4-(p-hydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | 1 g | Br.C(C=C)N1CC2=C(C(=C(C=C2C(C1)C1=CC=C(C=C1)O)O)O)Cl
reactant | acetyl bromide | 1.3 ml | C(C)(=O)Br | C2H3BrO
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-allyl-8-chloro-6,7-diacetoxy-4-(p-acetoxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.C(C=C)N1CC2=C(C(=C(C=C2C(C1)C1=CC=C(C=C1)OC(C)=O)OC(C)=O)OC(C)=O)Cl | InChI=1S/C24H24ClNO6.BrH/c1-5-10-26-12-20(17-6-8-18(9-7-17)30-14(2)27)19-11-22(31-15(3)28)24(32-16(4)29)23(25)21(19)13-26;/h5-9,11,20H,1,10,12-13H2,2-4H3;1H
